US07834021B2
N-(2-{[3-(Fluoromethyl)-1-(4-hydroxy-4-phenylcyclohexyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide.
100 mg (0.53 mmol) of 4-hydroxy -4-phenylcyclohexanone and 184 mg (0.53 mmol) of N-(2-{[3-(fluoromethyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide were dissolved in 10 mL of methylene chloride. To the solution was added 221 mg (1.06 mmol) of sodium triacetoxyborohydride. The reaction mixture was stirred at room temperature for 2 h. Direct chromatography on silica gel gave the final desired product 41 mg (top spot on TLC and first peak on HPLC, yield: 16.7%, MS: 522 (M+1)+) and the other isomer 51 mg (second peak on HPLC, yield: 20%, MS: 522 (M+1)+).

reactant | 4-hydroxy -4-phenylcyclohexanone | 0.53 mmol, 100 mg | OC1(CCC(CC1)=O)C1=CC=CC=C1 | C12H14O2
reactant | N-(2-{[3-(fluoromethyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | 0.53 mmol, 184 mg | FCC1(CNCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C15H17F4N3O2
reactant | sodium triacetoxyborohydride | 1.06 mmol, 221 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{[3-(Fluoromethyl)-1-(4-hydroxy-4-phenylcyclohexyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | 41 mg, yield: 16.7% | FCC1(CN(CC1)C1CCC(CC1)(C1=CC=CC=C1)O)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C27H31F4N3O3
